Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
flank pain
 
Major Surgical or Invasive Procedure:
Percutaneous nephrostomy tube placement
Soft tissue mass biopsy
 
History of Present Illness:
CC: right flank pain 

HPI(4): 
Ms. ___ is a ___ year old female with a PMH of hypothyroidism,
who presents as transfer from ___ with
right flank pain and for further management of severe R
hydronephrosis ___ R pelvic mass. 

Pt reports that she suddenly developed severe R flank pain on
___ which woke her up from sleep, and which has progressed
steadily since then. Pain is stabbing, radiates to R flank and
back. The pain is constant, worse with movement or standing, and
associated nausea. No vomiting or diarrhea. Does report a 15 lb
weight loss, though states this is intentional. No fevers or
nightsweats. 

She initially presented to ___ ED on ___, and
was diagnosed with R sided nephrolithiasis. She was discharged
home with medications. When she returned to ___ ED on ___, 
CT
scan revealed:

"Severe right obstructive uropathy similar to previous
examination.  Ill-defined somewhat spiculated soft tissue
area/lesion in the right lower pelvis, closely associated with
the distal right ureter, and appears to be the point of
obstruction.  The etiology of the soft tissue abnormality in the
right lower pelvis is not certain, but may be due to a neoplasm
such as lymphoma or sarcoma."

She was therefore transferred to ___ for further management. 

In the ED:

Initial vital signs were notable for: 98.1, 60, 122/76, 96% RA

Exam notable for: Abdominal: Soft, nontender, nondistended, no
masses, no CVA tenderness

Labs were notable for:

- CBC: WBC 8.9 (68% n), hgb 10.0, plt 260

- Lytes:
143 / 108 / 9     AGap=13 
------------- 83 
4.3 \ 22 \ 1.1  
 
- CEA and CA125 pending
- UCG negative
- UA with moderate blood, negative nitrites, 94 RBCs, 12 WBCs,
epithelial cell

Imaging: Pelvic u/s: Unremarkable pelvic ultrasound. The
ill-defined area of soft tissue density in the posterolateral
right pelvis is better demonstrated on CT and may be further
characterized with MRI.

Second opinion CT read from ___ requested and pending

Consults:
- Gynecology - will follow 
- Urology - recommend R PCN, no indication for Foley
___ - plan for PCN in am, no emergent indication for overnight
placement

Received: IVF, levothyroxine 150 mcg, Tylenol 1 gm

Vitals on transfer: T 98.2, HR 62, BP 119/82, RR 18, 99% RA 

Upon arrival to the floor, patient recounts history as above. 
She
explains that she was told that she has a mass and that it could
be cancer. She has told her sons about the mass, but not about
the concern for cancer. She is hopeful that this is not what we
will find. She also has several questions about a perc
nephrostomy procedure, which we discussed broadly, but deferred
detailed questions to ___ team. Currently her pain is under
control and she is not nauseous. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
- hypothyroidism 
 
Social History:
___
Family History:
FAMILY HISTORY:
- reports family members with stroke, high blood pressure, heart
issues
- denies family history of GYN or colon cancers
- denies family history of breast cancer
 
Physical Exam:
EXAM
VITALS: T 98.0, HR 57, BP 122/70, RR 20, 97 RA 
___: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
BACK: Right sided CVA tenderness 
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: appropriate affect for situation

discharge exam:
stable vital signs
perc nephrostomy tube in place

 
Pertinent Results:
LABS: Reviewed in ___, significant for:
- CBC: WBC 8.9 (68% n), hgb 10.0, plt 260

- Lytes:
143 / 108 / 9     AGap=13 
------------- 83 
4.3 \ 22 \ 1.1  
 
- CEA and CA125 pending
- UCG negative
- UA with moderate blood, negative nitrites, 94 RBCs, 12 WBCs,
epithelial cell

MICRO: Reviewed in ___, significant for:
- ___ urine culture - pending 

IMAGING: Reviewed in ___, significant for:

___ CT a/p without contrast:
Impression: Severe right obstructive uropathy similar to 
previous
examination. Ill-defined speculated masslike lesion in the right
lower pelvis, closely associated with the distal right ureter,
and areas suspicious for representing the point of obstruction.
The etiology of the soft tissue abnormality in the right lower
pelvis is not certain, but may be due to a neoplasm such as
lymphoma or sarcoma. Clinical correlation recommended. 

___ Transvaginal pelvic ultrasound: (PRELIM READ)
Unremarkable pelvic ultrasound. 
RECOMMENDATION(S): The ill-defined area of soft tissue density 
in
the 
posterolateral right pelvis is better demonstrated on CT and may
be further characterized with MRI. 

MRI 
1. Right deep hemipelvis mass enveloping the right distal 
ureter, right sciatic nerve and right internal iliac 
vasculature. A urothelial carcinoma is a primary consideration 
considering its involvement of the right distal ureter 
for a substantial length.  Additionally, this may represent a 
malignant nerve sheath tumor.  Endometriosis is less likely 
considering lack of endometriosis within the remaining pelvis 
and lack of endometriomas.  A sarcoma is within 
consideration, however less likely.  This is amenable to biopsy 
by CT guidance with attention to vascular involvement (see 
1302:49). 
2. Two adjacent right pelvic hyperenhancing lymph nodes may 
represent malignant nodal involvement. 
3. Moderate-severe obstructive right hydroureter, partially 
imaged. 
4. Vaginal cystic lesion likely represents a 
hemorrhagic/proteinaceous Bartholin's cyst. 
5. Sigmoid epiploic appendagitis.

Test                          Result              Reference 
Range/Units
CA ___                       12                  <34 U/mL
 
 
This test was performed using the Siemens 
chemiluminescent method. Values obtained from
different assay methods cannot be used
interchangeably. CA ___ levels, regardless of
value, should not be interpreted as absolute
evidence of the presence or absence of disease.
 
THIS TEST WAS PERFORMED AT:
___  ___ 
___

___ 03:40PM BLOOD CEA-1.8 CA12___-19

Discharge labs:

___ 07:00AM BLOOD WBC-7.7 RBC-3.84* Hgb-10.8* Hct-34.2 
MCV-89 MCH-28.1 MCHC-31.6* RDW-13.9 RDWSD-45.1 Plt ___
___ 07:00AM BLOOD Glucose-100 UreaN-11 Creat-1.1 Na-143 
K-4.7 Cl-106 HCO3-26 AnGap-11

Pathology:  biopsy pending

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a PMH of hypothyroidism,
who presents as transfer from ___ with
right flank pain and for further management of severe R
hydronephrosis ___ R pelvic mass. 

ACUTE/ACTIVE PROBLEMS:
# Pelvic mass 
She was admitted with obstructive hydroureteronephrosis - from a 
a pelvic mass.  MRI demonstrated a mass encasing the right 
ureter, with external compression.  She underwent CT guided 
biopsy.  Chest CT was negative for metastatic disease, and tumor 
markers were negative.  She will require close follow up pending 
the results of the biopsy.  Her PCP was made aware of this plan, 
and she will follow up on ___.

# Right sided obstructive hydronephrosis, secondary to pelvic
mass
# Flank pain
# Acute kidney injury
She was found to have severe right-sided nephrosis due to 
extrinsic
compression from mass. Cr is elevated at 1.1 for her age and 
body mass.  She was seen by urology, but given that a stent 
would be likely to fail in setting of extrinsic compression, she 
underwent ___ guided perc nephrostomy without complications.  
Flank pain resolved, and creatinine remained stable.  She was 
scheduled for follow up in 3 months, although the future of the 
perc tube will depend on the treatment of the mass.  

# Normocytic anemia
Unclear timecourse. No signs of active bleeding
Monitored and remained stable. 

CHRONIC/STABLE PROBLEMS:
# Hypothyroidism
- continue home levothyroxine 

# Contacts/HCP/Surrogate and Communication: ___ - ___

Transitional issues:
Biopsy pending at time of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 150 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  OSELTAMivir 75 mg PO DAILY Duration: 10 Days 
RX *oseltamivir 75 mg 1 capsule(s) by mouth once a day Disp #*8 
Capsule Refills:*0 
3.  Levothyroxine Sodium 150 mcg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Hydroureteronephrosis
Mild acute kidney disease
Pelvic mass
 
Discharge Condition:
Tolerating diet, percutaneous nephrostomy tube in right flank
 
Discharge Instructions:
It was a pleasure caring for you at the ___ 
___.

Why were you hospitalized?
You presented to an outside hospital with pain in your side and 
were found to have a blockage in your urinary system.
You were sent here for drainage.
We also found a mass that was blocking the tube and we took a 
piece of it to see what it was.  The results are still pending.

What should you do when you get home?
You should follow-up with your primary care doctor as scheduled 
on ___.  Hopefully the results of the biopsy will be 
available then.
You should follow-up with the urologist in 3 weeks.
You should also follow-up with the interventional radiologist in 
3 months about the tube if it has not yet been addressed.

 
Followup Instructions:
___